US05747498
To ethyl 3,4-dihydroxybenzoate (36.4 g, 0.200 mol), K2CO3 (60.8 g, 0.44 mol) and tetrabutylammonium iodide (750 mg) in degassed acetone (400 mL) was added 2-bromoethyl methyl ether (69.5 g, 47 mL). The mixture was stirred under N2 at reflux for 64 hours. Ether (600 mL) was added to the mixture and after stirring 30 minutes at 20° C. the precipitated salts were removed by filtration. The filtrate was concentrated in vacuo and the residue was triturated with hexane (500 mL) for 30 minutes and the white solid ethyl 3,4-bis(2-methoxy-ethoxy)benzoate was filtered and dried in vacuo (55.5 g; 93%; M.P. 50°-51° C.). A portion of this product (45.7 g, 0.158 mol) in acetic acid (150 mL) was treated dropwise with conc. HNO3 (40 mL) at 5° C. and the solution stirred 24 hours before pouring into cold H2O (1.6 L). The mixture was extracted with ethyl acetate (1.1 L), and the organic phase was washed three times with 200 mL H2O, and brine, dried over Na2SO4, filtered and concentrated in vacuo to afford ethyl 4,5-bis-(2-methoxy-ethoxy)-2-nitro-benzoate (54.3 g) as a brown oil. This nitro product (52.0 g, 0.15 mol) was dissolved in ethanol (1000 mL) containing 1 equivalent of HCl (generated in the ethanol by prior addition of 11 mL acetyl chloride), PtO2.H2O (1.0 g) was added, and the mixture was hydrogenated under 45 psi H2 for 6 hours. The catalyst was removed by filtration through Celite, and the filtrate was concentrated in vacuo to a thick slurry which was diluted with ether (400 mL). The solid white hydrochloride salt of ethyl 2-amino-4,5-bis-(2-methoxy-ethoxy)benzoate was filtered and dried in vacuo (44.7 g; 88%). A portion of this material (42 g, 0.12 mol) and ammonium formate (7.6 g, 0.12 mol) were disssolved in formamide (63 mL) and the stirred mixture was heated to 160°-165° C. under an atmosphere of N2 for 3 hours. H2O (200 mL) was added and after cooling the precipitated crude title product was recovered by filtration, washed with cold H2O, and dried in vacuo. The filtrate was extracted five times with CHCl3, and the pooled organic extracts were washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue and crude quinazolone precipitate were combined, triturated in hot acetonitrile (250 mL) for 30 minutes, cooled to 20° C. and treated with ether (250 mL). After cooling to 4° C. the white solid was filtered and dried in vacuo (30.4 g, 86%; GC-MS m/z 294 (M+)).

reactant | ethyl 3,4-dihydroxybenzoate | 0.200 mol, 36.4 g | OC=1C=C(C(=O)OCC)C=CC1O | C9H10O4
reactant | K2CO3 | 0.44 mol, 60.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethyl methyl ether | 47 mL, 69.5 g | COCCBr | C3H7BrO
reactant | HNO3 | 40 mL | [N+](=O)(O)[O-] | HNO3
reactant | acetone | 400 mL | CC(=O)C | C3H6O
catalyst | tetrabutylammonium iodide | 750 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 1.6 L | O | H2O
solvent | Ether | 600 mL | CCOCC | C4H10O
product | ethyl 4,5-bis-(2-methoxy-ethoxy)-2-nitro-benzoate | 54.3 g | COCCOC1=CC(=C(C(=O)OCC)C=C1OCCOC)[N+](=O)[O-] | C15H21NO8
